US07414061B2
3-{4-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-pyridine
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole (73 mg, 0.3 mmol) was converted, using 3-pyridylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (18 mg, 19%) which was obtained as an off-white solid. MS: m/e=321.4 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole | 0.3 mmol, 73 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=C(C=C1)F | C13H10FN3O
reactant | 3-pyridylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 3-{4-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-pyridine | 18 mg, 19% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C=1C=NC=CC1)C | C18H13FN4O
